US04120864
Furoyl chloride (31 g. or 0.238 mole) was added dropwise to a slurry of 4-methylthiosemicarbazide (25 g. or 0.238 moles) in dry pyridine (200 ml.) cooled to -10°. The slurry was allowed to come to ambient temperature and stirred overnight. The reaction mixture was poured into 1500 ml. of crushed ice, the precipitate was collected, dried and recrystallized from EtOH to give 1-(2-furoyl)-4-methyl thiosemicarbazide (28.0 g.). This melted at 204°-206° C. (dec.) and was found to contain by analysis 42.4% C, 4.6% H, 21.2% N, 16.1% O, 15.9% S; C7H9N3O2S requires 42.2% C, 4.5% H, 21.1% N, 16.1% O, 16.1% S. The structure was confirmed by its infrared spectrum and nuclear magnetic resonance spectrum.

reactant | Furoyl chloride | 0.238 mole, 31 g | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | 4-methylthiosemicarbazide | 0.238 moles, 25 g | CNC(NN)=S | C2H7N3S
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 1-(2-furoyl)-4-methyl thiosemicarbazide | 28.0 g | O1C(=CC=C1)C(=O)NNC(=S)NC | C7H9N3O2S
